US06348032B1
1-(2-Chlorobenzyl)-6-chlorocarbonyl-2-cyclopropylbenzimidazole hydrochloride (140 mg) is added at room temperature to a solution which has been prepared by adding morpholine (298 mg, a 30% methanol solution) to methylene chloride (10 ml) . After the reaction mixture is stirred for one hour at the same temperature, it is washed with water, dried and concentrated under reduced pressure. The residue is recrystallized using ether and thus, 1-(2-chlorobenzyl)-2-cyclopropyl-6-morpholino-carbonylbenzimidazole (20 mg) is obtained. (Colorless crystal). 1H-NMR (CDCl3,): 1.04-1.12 (2H, m), 1.25-1.32 (2H, m), 1.82-1.96 (1H, m), 3.68 (8H, bs), 5.56 (2H, s), 6.55 (1H, dd, J=1, 8 Hz), 7.13 (1H, dt, J=1, 8 Hz), 7.22-7.29 (2H, m), 7.30 (1H, d, J=1 Hz), 7.46 (1H, dd, J=1, 8 Hz), 7.77 (1H, d, J=8 Hz).

reactant | 1-(2-Chlorobenzyl)-6-chlorocarbonyl-2-cyclopropylbenzimidazole hydrochloride | 140 mg | Cl.ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)Cl)C3CC3)C=CC=C1
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | methanol | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chlorobenzyl)-2-cyclopropyl-6-morpholino-carbonylbenzimidazole | 20 mg | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)C3CNCCO3)C3CC3)C=CC=C1 | C22H22ClN3O2
